US08557830B2
Tin (II) chloride (0.43 g, 2.2 mmol) was added to a solution of 1-chloro-6-methyl-5-nitroisoquinoline (0.100 g, 0.45 mmol) in ethanol/DCM (10.0 mL, 4:1). The solution was heated at 70° C. for 16 h. The reaction mixture was diluted with DCM and the organic phase was washed with saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a brown solid which was purified via column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-50% ethyl acetate-hexane) to afford 1-chloro-6-methylisoquinolin-5-amine (0.035 g, 40% yield) as a brown solid. MS (ESI, pos. ion) m/z: 193 [M+H]+

reactant | Tin (II) chloride | 2.2 mmol, 0.43 g | [Sn](Cl)Cl
reactant | 1-chloro-6-methyl-5-nitroisoquinoline | 0.45 mmol, 0.100 g | ClC1=NC=CC2=C(C(=CC=C12)C)[N+](=O)[O-] | C10H7ClN2O2
solvent | ethanol DCM | 10.0 mL | C(C)O.C(Cl)Cl
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-chloro-6-methylisoquinolin-5-amine | 0.035 g, 40% yield | ClC1=NC=CC=2C(=C(C=CC12)C)N | C10H9ClN2
